US04066692
Step D(2): Preparation of 3-Benzyloxy-1-bromopropane
To the Grignard reagent prepared from bromobenzene (46.3 g., 0.294 mole) and magnesium (7.15 g., 0.294 mole) in ether (150 ml.) is added, dropwise over one hour at 0°, a solution of 3-chloromethoxy-1-bromopropane (55.0 g., 0.294 mole) in ether (50 ml.). The resulting solution is stirred at 25° for 16 hours, then heated at reflux for 1/4 hour, cooled to 0° and cautiously treated with ice water (200 ml.) with vigorous stirring. After separating the phases, the aqueous layer is extracted with ether (200 ml.). The combined organic extract is washed with water, 5% potassium carbonate, water and saturated brine, dried over sodium sulfate and evaporated in vacuo leaving a pale yellow oil (64.4 g., 96%) which is distilled to provide the title compound as a colorless liquid (92% recovery), b.p. 140°-141°/14 mm.; pmr (CDCl3)δ2.12 (2H,p), 3.51 (2H,t), 3.60 (2H,t), 4.50 (2H,t) and 7.31 (5H,s).

reactant | bromobenzene | 0.294 mole, 46.3 g | BrC1=CC=CC=C1 | C6H5Br
reactant | magnesium | 0.294 mole, 7.15 g | [Mg] | Mg
reactant | 3-chloromethoxy-1-bromopropane | 0.294 mole, 55.0 g | ClCOCCCBr | C4H8BrClO
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 3-Benzyloxy-1-bromopropane | 92% | C(C1=CC=CC=C1)OCCCBr | C10H13BrO
